US08026257B2
(±)-1-(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)ethanol.
To a solution of 5-chloro-2-cyclopropyl-2H-indazole-7-carbaldehyde (0.30 g, 1.35 mmol) in tetrahydrofuran (5 mL) at −78° C. was added methyl magnesiumbromide (3 M in diethyl ether, 0.68 mL, 2.03 mmol). The reaction was allowed to gradually warm in the ice bath (ca. 1 h) to 0° C. The reaction which had been a suspension became a solution. The reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The ethereal was washed with water (2×), then brine, dried over sodium sulfate, and concentrated to give 240 mg (77%) as an oil. 1H-NMR (CDCl3, 300 MHz) δ 7.90 (s, 1H), 7.45 (m, 1H), 7.09 (m, 1H), 5.27 (q, J=6.6 Hz, 1H), 3.85-3.93 (m, 1H), 1.65 (d, J=6.6 Hz, 1H), 1.28-1.34 (m, 2H), 1.10-1.17 (m, 2H). Mass spec.: 237.28 (MH)+.

reactant | 5-chloro-2-cyclopropyl-2H-indazole-7-carbaldehyde | 1.35 mmol, 0.30 g | ClC1=CC2=CN(N=C2C(=C1)C=O)C1CC1 | C11H9ClN2O
reactant | methyl magnesiumbromide | 2.03 mmol, 3 M, 0.68 mL | C[Mg]Br
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-Chloro-2-cyclopropyl-2H-indazol-7-yl)ethanol | ClC1=CC2=CN(N=C2C(=C1)C(C)O)C1CC1 | C12H13ClN2O
